US04013688
(11α,17β-dihydroxyandrost-4-en-3-one 11 -acid succinate)
Using this method, 11α acid succinates of pregnenolone and 17β-hydroxy-5α-androstan-3-one were prepared.

reactant | pregnenolone | CC(=O)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CC=C4[C@@]3(CC[C@@H](C4)O)C)C | C21H32O2
reactant | 17β-hydroxy-5α-androstan-3-one | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(CC[C@]3(C)[C@H]1CC2)=O | C19H30O2
product | 11α,17β-dihydroxyandrost-4-en-3-one | O[C@H]1[C@@H]2[C@]3(CCC(C=C3CC[C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)=O)C | C19H28O3
